US04855301
(B) 1-[(Dimethylamino)carbonyl]-1,6-dihydro-2-methoxy-4-methyl-6-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, 1-methylethyl ester
A solution of 1,4-dihydro-2-methoxy-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, 1-methylethyl ester (3.34 g, 10.0 mmol) and distilled triethylamine (6.3 ml, 45 mmol) in dichloromethane (10 ml) in an ice bath under argon was treated dropwise via syringe with 1.3M phosgene in benzene solution (9.2 ml, 12 mmol) over 3 to 5 minutes. After stirring at 0° C. for 1.5 hours, the reaction mixture was treated with 40% aqueous dimethylamine (3.3 ml, 15 mmol), capped with a septum, and stirred at room temperature for about 21/2 days. The reaction was then evaporated and partitioned between ethyl acetate and water. The organic phase was washed with saturated sodium chloride, dried (potassium carbonate), and evaporated to give the title compound (crude) as a brown oil (4.75 g).

reactant | 1,4-dihydro-2-methoxy-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, 1-methylethyl ester | 10.0 mmol, 3.34 g | COC=1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)C)C | C16H19N3O5
reactant | triethylamine | 45 mmol, 6.3 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | 1.3M | C(=O)(Cl)Cl | CCl2O
reactant | benzene | 12 mmol, 9.2 ml | C1=CC=CC=C1 | C6H6
reactant | dimethylamine | 15 mmol, 3.3 ml | CNC | C2H7N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-[(Dimethylamino)carbonyl]-1,6-dihydro-2-methoxy-4-methyl-6-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, 1-methylethyl ester | 4.75 g | CN(C(=O)N1C(=NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)C)C)OC)C | C19H24N4O6
